US05919748
L-lysine hydrochloride (18.3 g, 0.1 mols) and 2.0 g (0.2 mols) of sodium hydroxide were dissolved in 100 ml of water in a three-necked round flask, and 100 ml of i-propanol were added thereto. Then, 32.6 g (0.1 mols) of octadecylglycidyl ether were added dropwise thereto over a period of 30 minutes while being heat-refluxed and stirred. Further, the mixture was stirred under reflux for 3 hours. It was identified through TLC and gas chromatography that octadecylglycidyl ether disappeared. Thereafter, the resulting mixture was neutralized with 10.1 g (0.1 mols) of 36% hydrochloric acid. The reaction solution was concentrated under reduced pressure, and the residue was purified through silica-gel column chromatography (Kieselgel 60, eluent=mixture of chloroform, methanol and acetic acid at a ratio of 3:1:0.5) to give 12.0 g of Nε-(2-hydroxy-3-octadecyloxy)propyl-L-lysine hydrochloride (yield 23.6%).

reactant | L-lysine hydrochloride | 0.1 mols, 18.3 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | sodium hydroxide | 0.2 mols, 2.0 g | [OH-].[Na+]
reactant | octadecylglycidyl ether | 0.1 mols, 32.6 g | C(CCCCCCCCCCCCCCCCC)OCC1CO1 | C21H42O2
reactant | hydrochloric acid | 0.1 mols, 10.1 g | Cl | ClH
reactant | i-propanol | 100 ml | C(C)(C)O | C3H8O
solvent | water | 100 ml | O | H2O
product | Nε-(2-hydroxy-3-octadecyloxy)propyl-L-lysine hydrochloride | 12.0 g, yield 23.6% | Cl.OC(C)C(CCCCCCCCCCCCCCC)OCCCNCCCC[C@H](N)C(=O)O | InChI=1S/C27H56N2O4.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-20-26(24(2)30)33-23-18-22-29-21-17-16-19-25(28)27(31)32;/h24-26,29-30H,3-23,28H2,1-2H3,(H,31,32);1H/t24?,25-,26?;/m0./s1
